US07910774B2
Preparation of (2S,5S,7S)-5-tert-butoxycarbonylamino-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-8-methyl-4-oxo-nonanoic acid
A solution of 10.0 g of (2S,5S,7S)-5-tert-butoxycarbonylamino-3-ethoxycarbonyl-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-8-methyl-4-oxo-3-propoxycarbonyl-nonanoic acid ethyl ester in 20 mL of ethanol is treated with 25 mL of a 37% solution of sodium hydroxide at room temperature. The reaction mixture is stirred for 24 hours at room temperature and the ethanol removed by distillation in vacuum. The residue is extracted twice with 25 mL of dichloromethane. The pH of the aqueous layer is carefully adjusted to 2.5 with 2 N hydrochloric acid at 0° C., the reaction mixture is then stirred for 16 hours and extracted 4 times with 50 mL of dichloromethane. The organic layer is dried and the solvent removed to give the title compound as an oil.

reactant | (2S,5S,7S)-5-tert-butoxycarbonylamino-3-ethoxycarbonyl-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-8-methyl-4-oxo-3-propoxycarbonyl-nonanoic acid ethyl ester | 10.0 g | C(C)OC([C@H](C(C([C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)NC(=O)OC(C)(C)C)=O)(C(=O)OCCC)C(=O)OCC)C(C)C)=O | C39H63NO12
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (2S,5S,7S)-5-tert-butoxycarbonylamino-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-8-methyl-4-oxo-nonanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(C[C@H](C(=O)O)C(C)C)=O)C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C30H49NO8
